US07491714B2
A mixture of (R)-3-(3-amino-propyl)-5-(6-methoxy-quinolin-4-yl)-oxazolidin-2-one (0.15 g, 0.5 mmol), benzo[1,2,5]thiadiazole-5-carbaldehyde (92 mg, 0.56 mmol), methanol (0.5 ml), methylene chloride (1.8 ml), 3 Å dry molecular sieve (1 g) was stirred at room temperature for 16 hours. Sodium borohydride (28 mg, 0.76 mmol) was added and the mixture was stirred for 3 hours. After concentration of the solvent the residue was dissolved in ethyl acetate and the organic phase was washed with water, dried over magnesium sulfate and concentrated. The residue was chromatographed on silicagel eluting with methylene chloride-methanol (99-1 first, then 90-10) to give (R)-3-{3-[(benzo[1,2,5]thiadiazol-5-ylmethyl)-amino]-propyl}-5-(6-methoxyquinolin-4-yl)-oxazolidin-2-one (150 mg, 59%).

reactant | (R)-3-(3-amino-propyl)-5-(6-methoxy-quinolin-4-yl)-oxazolidin-2-one | 0.5 mmol, 0.15 g | NCCCN1C(O[C@@H](C1)C1=CC=NC2=CC=C(C=C12)OC)=O | C16H19N3O3
reactant | benzo[1,2,5]thiadiazole-5-carbaldehyde | 0.56 mmol, 92 mg | N1=C2C(=NS1)C=C(C=C2)C=O | C7H4N2OS
reactant | methanol | 0.5 ml | CO | CH4O
reactant | Sodium borohydride | 0.76 mmol, 28 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 1.8 ml | C(Cl)Cl | CH2Cl2
product | (R)-3-{3-[(benzo[1,2,5]thiadiazol-5-ylmethyl)-amino]-propyl}-5-(6-methoxyquinolin-4-yl)-oxazolidin-2-one | 150 mg, 59% | N1=C2C(=NS1)C=C(C=C2)CNCCCN2C(O[C@@H](C2)C2=CC=NC1=CC=C(C=C21)OC)=O | C23H23N5O3S
